US09290460B2
6-Amino-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione
A mixture of 6-nitro-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)-quinazoline-2,4(1H,3H)-dione (50 mg, 0.10 mmol) in EtOH (10 mL) with Fe powder (33.5 mg, 0.60 mmol) and sat. NH4Cl solution (0.2 mL) were refluxed under N2 overnight. The mixture was filtered to remove the solid. The solution was concentrated and purified by flash chromatography (DCM:MeOH=50:3) to give the title compound (10.79 mg, 23.6% yield) as yellow solid. 1H NMR (DMSO-d6): 11.46 (s, 1H), 8.39 (d, J=4.8 Hz, 2H), 7.42-7.31 (m, 4H), 7.20 (d, J=2.7 Hz, 1H), 7.00 (d, J=8.7 Hz, 1H), 6.89 (dd, J=8.7 and 2.7 Hz, 1H), 6.67 (t, J=4.8 Hz, 1H), 5.26 (s, 4H), 3.81-3.68 (m, 8H). MS: m/z 458.3 [M+H]+.

reactant | 6-nitro-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)-quinazoline-2,4(1H,3H)-dione | 0.10 mmol, 50 mg | [N+](=O)([O-])C=1C=C2C(NC(N(C2=CC1)CC1=CC(=CC=C1)C(=O)N1CCN(CC1)C1=NC=CC=N1)=O)=O | C24H21N7O5
reactant | NH4Cl | 0.2 mL | [NH4+].[Cl-]
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Fe | 0.60 mmol, 33.5 mg | [Fe] | Fe
product | 6-Amino-1-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione | 10.79 mg, 23.6% yield | NC=1C=C2C(NC(N(C2=CC1)CC1=CC(=CC=C1)C(=O)N1CCN(CC1)C1=NC=CC=N1)=O)=O | C24H23N7O3
